US06660854B2
A mixture of methyl 1,2,4-triazole-3-carboxylate (1.27 g, 0.01 mole) and 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose (5.04 g, 0.01 mole) was melted and then 0.095 g of p-toluenesulfonic acid was added thereto. The reaction mixture was reacted for 3 hours, while maintaining the temperature of the reaction mixture at 95±5° C. And then, the reaction mixture was crystallized with 25 ml of methanol to give 4.85 g of 1-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester (yield: 85%).

reactant | methyl 1,2,4-triazole-3-carboxylate | 0.01 mole, 1.27 g | N1N=C(N=C1)C(=O)OC | C4H5N3O2
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 0.01 mole, 5.04 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
catalyst | p-toluenesulfonic acid | 0.095 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-(2,3,5-tri-O-benzoyl-β-D-ribofuranosyl)-1,2,4-triazole-3-carboxylic acid methyl ester | 4.85 g, yield: 85% | COC(=O)C1=NN(C=N1)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C30H25N3O9
